US04997836
A solution of di-tert-butyl dicarbonate (4.6 g) in dichloromethane (15 ml) is added dropwise taking 15 minutes, while stirring at room temperature, to a mixture of methyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (5.0 g) obtained in Reference Example 1, triethylamine (2.2 g) and dichloromethane (50 ml). The reaction mixture is stirred for 2 hours at room temperature, followed by concentration under reduced pressure. The concentrate is subjected to extraction with ethyl acetate. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure. Crystals obtained from the residue are recrystallized from ethyl acetate to afford methyl 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (6.3 g) as colorless needles, m.p. 163-164° C.

reactant | di-tert-butyl dicarbonate | 4.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 5.0 g | COC=1C=C(C(=O)N2CC(NCC2)C(=O)OC)C=C(C1OC)OC | C16H22N2O6
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | methyl 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 6.3 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)OC | C21H30N2O8
